US08124606B2
Compound 112: (S)-3-fluoro-N-methyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide:
To a suspension of (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (129 mg, 0.553 mmol) in propiononitrile (1.2 mL) was added ((cyanomethyl)trimethylphosphonium iodide (161 mg, 0.664 mmol)) and 3-fluoro-N-methyl-4-(piperazin-1-yl)benzamide hydrochloride (151 mg, 0.553 mmol) and DIEA (290 μl, 1.659 mmol)). The vial was heated to 90° C. for 16 hours. The crude rxn was cooled to RT, DMSO (1 ml) was added, and purified via HPLC (55-90, basic). The fractions were collected, concentrated until a precipitate was visible and filtered. The solids were washed with water and collected to retrieve the product as a white solid (83 mg, 33% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.48 (s, 1H), 8.33 (d, J=4.5 Hz, 1H), 7.45-7.70 (m, 3H), 6.88-7.10 (m, 2H), 4.50 (d, J=12.9 Hz, 1H), 3.83 (dd, J=11.1, 2.5 Hz, 1H), 3.36 (s, 2H), 3.08 (br. s., 4H), 2.75 (d, J=4.5 Hz, 3H), 2.56-2.64 (m, 1H), 2.50 (br. s., 4H), 1.97-2.12 (m, 1H), 1.85 (d, J=11.1 Hz, 1H), 1.63 (d, J=11.9 Hz, 1H), 1.29-1.57 (m, 3H). [M+H] calc'd for C24H29FN6O2, 453; found, 453.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.553 mmol, 129 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.664 mmol, 161 mg | [I-].C(#N)C[P+](C)(C)C
reactant | 3-fluoro-N-methyl-4-(piperazin-1-yl)benzamide hydrochloride | 0.553 mmol, 151 mg | Cl.FC=1C=C(C(=O)NC)C=CC1N1CCNCC1
reactant | DIEA | 1.659 mmol, 290 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | propiononitrile | 1.2 mL | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (S)-3-fluoro-N-methyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 83 mg, 33% yield | FC=1C=C(C(=O)NC)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C24H29FN6O2
